US08034826B2
A solution of 4-fluoro-N-methyl-N-(6,7,8,9-tetrahydro-5H-pyrido[3,2-b]indol-8-yl)-benzenesulfonamide (2.8 g, 7.8 mmol) and DMF (22 mL) was cooled to 0° C. Sodium hydride (340 mg, 8.6 mmol, 60% dispersion in mineral oil) was added at 0° C. and after 30 min, tert-butylbromoacetate (1.3 mL, 8.9 mmol) was added at 0° C. After 1 hour, MeOH was added and the reaction mixture was filtered. The organic layer was concentrated and the residue purified by reverse phase preparative HPLC to afford 700 mg of {8-[(4-fluoro-benzenesulfonyl)-methyl-amino]-6,7,8,9-tetrahydro-pyrido[3,2-b]indol-5-yl}-acetic acid tert-butyl ester. Mass spectrometric data [M+H]+=474.

reactant | 4-fluoro-N-methyl-N-(6,7,8,9-tetrahydro-5H-pyrido[3,2-b]indol-8-yl)-benzenesulfonamide | 7.8 mmol, 2.8 g | FC1=CC=C(C=C1)S(=O)(=O)N(C1CC=2C3=C(NC2CC1)C=CC=N3)C | C18H18FN3O2S
reactant | DMF | 22 mL | CN(C)C=O | C3H7NO
reactant | Sodium hydride | 8.6 mmol, 340 mg | [H-].[Na+]
reactant | tert-butylbromoacetate | 8.9 mmol, 1.3 mL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | MeOH | CO | CH4O
product | {8-[(4-fluoro-benzenesulfonyl)-methyl-amino]-6,7,8,9-tetrahydro-pyrido[3,2-b]indol-5-yl}-acetic acid tert-butyl ester | 700 mg | C(C)(C)(C)OC(CN1C2=C(C=3CC(CCC13)N(C)S(=O)(=O)C1=CC=C(C=C1)F)N=CC=C2)=O | C24H28FN3O4S
